US07915300B2
4-(2-Amino-acetyl)-benzoic acid methyl ester hydrochloride
4(2-Azido-acetyl)-benzoic acid methyl ester (6.53 mmol) was suspended in methanol (30 ml) and aqueous hydrochloric acid (6.53 mmol, 1M) was added. A catalytic amount of palladium on carbon (10% wt) was added and the reaction stirred over an atmosphere of hydrogen for 3 h. The reaction was filtered and the solvent removed in vacuo to give the title compound (1.3 g) as a yellow solid m/z=194 in MS ES+, which was used in the next step without purification.

reactant | 4(2-Azido-acetyl)-benzoic acid methyl ester | 6.53 mmol | COC(C1=CC=C(C=C1)C(CN=[N+]=[N-])=O)=O | C10H9N3O3
reactant | hydrochloric acid | 6.53 mmol, 1M | Cl | ClH
reactant | hydrogen | [H][H] | H2
solvent | methanol | 30 ml | CO | CH4O
catalyst | palladium on carbon | [Pd] | Pd
product | 4-(2-Amino-acetyl)-benzoic acid methyl ester hydrochloride | 1.3 g | Cl.COC(C1=CC=C(C=C1)C(CN)=O)=O | InChI=1S/C10H11NO3.ClH/c1-14-10(13)8-4-2-7(3-5-8)9(12)6-11;/h2-5H,6,11H2,1H3;1H
